US07465731B2
To a stirred solution of tert-butyl [(3R)-1-(diphenylmethyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridyl)carbamate (94 mg) in methanol (2 mL) was added hydrogen chloride methanol reagent 10 (0.5 mL, Tokyo Kasei), and the mixture was stirred at ambient temperature for 30 minutes. The solvent was evaporated to dryness and the residue was dissolved in the mixture of dioxane (3 ml) and methanol (1 ml). To this solution was added 4N-hydrogen chloride in dioxane (3 ml) and the mixture was stirred at ambient temperature for 3 hours. The solvent was evaporated to dryness and the residue was triturated with acetonitrile to give (2E)-3-(6-{[(3R)-1-(diphenylmethyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride (63 mg) as a pale yellow powder.

reactant | tert-butyl [(3R)-1-(diphenylmethyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridyl)carbamate | 94 mg | C1(=CC=CC=C1)C(N1C[C@@H](CC1)N(C(OC(C)(C)C)=O)C1=NC=C(C=C1)\C=C\C(NOC1OCCCC1)=O)C1=CC=CC=C1 | C35H42N4O5
reactant | hydrogen chloride methanol | CO.Cl
solvent | methanol | 2 mL | CO | CH4O
product | (2E)-3-(6-{[(3R)-1-(diphenylmethyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride | 63 mg | Cl.Cl.C1(=CC=CC=C1)C(N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)NO)C1=CC=CC=C1 | InChI=1S/C25H26N4O2.2ClH/c30-24(28-31)14-12-19-11-13-23(26-17-19)27-22-15-16-29(18-22)25(20-7-3-1-4-8-20)21-9-5-2-6-10-21;;/h1-14,17,22,25,31H,15-16,18H2,(H,26,27)(H,28,30);2*1H/b14-12+;;/t22-;;/m1../s1
